US04375471
4-(p-Cyanophenoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline
A solution of 1,2,3,4-tetrahydro-2-methyl-4-isoquinolinol (3.0 g, 0.018 mole) in dry DMF (15 ml) is added dropwise under nitrogen to a suspension of sodium hydride 50% (98%) (1.1 g, 0.022 mole), previously washed with hexane, in dry DMF (25 ml). The mixture is warmed to 60° C., at which time a solution of 4-fluorobenzonitrile (2.2 g, 0.018 mole) in dry DMF (15 ml) is slowly added. The reaction mixture is stirred at room temperature for 16 hours.

reactant | 1,2,3,4-tetrahydro-2-methyl-4-isoquinolinol | 0.018 mole, 3.0 g | CN1CC2=CC=CC=C2C(C1)O | C10H13NO
reactant | sodium hydride | 0.022 mole, 1.1 g | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 0.018 mole, 2.2 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(p-Cyanophenoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline | C(#N)C1=CC=C(OC2CN(CC3=CC=CC=C23)C)C=C1 | C17H16N2O
